US09382231B2
Step 1: 5-Chloro-N-isopropylpyrazine-2-carboxamide
N,N-Diisopropylethylamine (2.6 mL, 15 mmol) was added to a mixture of 5-chloropyrazine-2-carboxylic acid (0.80 g, 5.0 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (2.46 g, 5.56 mmol) and 2-propanamine (0.47 mL, 5.6 mmol) in methylene chloride (20 mL). The reaction mixture was stirred at room temperature overnight. The reaction mixture was worked up with sat. aqueous NaHCO3, and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column eluting with ethyl acetate in hexanes (0-15%) to afford the desired product. LCMS cacld. for C8H11ClN3O (M+1)+: m/z=200.1. Found: 200.1.

reactant | N,N-Diisopropylethylamine | 15 mmol, 2.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-chloropyrazine-2-carboxylic acid | 5.0 mmol, 0.80 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 5.56 mmol, 2.46 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 2-propanamine | 5.6 mmol, 0.47 mL | CC(C)N | C3H9N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-N-isopropylpyrazine-2-carboxamide | ClC=1N=CC(=NC1)C(=O)NC(C)C | C8H10ClN3O
